US07829590B2
Method C: 3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid amide (I-1)
3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester (265 mg, 0.73 mmol, 1.0 Eq.) was suspended in 7M NH3 in MeOH (10 mL) and heated to 80° C. in a pressure tube for 3 days. The solvent was removed in vacuo and the product isolated by column chromatography (2% to 5% MeOH/EtOAc) followed by tritruation from diethyl ether to give the title compound as cream powder (163 mg, 0.47 mmol, 64%); 1H NMR (400 MHz, d-6 DMSO) δ 1.71 (3H, d), 5.89 (1H, q), 7.03 (1H, br s), 7.11 (1H, s), 7.23 (1H, s), 7.36-7.42 (2H, m), 7.49 (1H, dd), 7.63 (1H d), 7.66 (1H, dd), 7.78 (1H, br s), 8.17 (1H, s)

reactant | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester | 0.73 mmol, 265 mg, 1.0 Eq. | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)N1C=NC=C1 | C17H15ClN2O3S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NH3 | 7M | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
product | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid amide | 0.47 mmol, 163 mg, 64% | ClC1=C(C=CC=C1)C(C)OC1=C(SC(=C1)N1C=NC=C1)C(=O)N | C16H14ClN3O2S
